US04643849
In 200 ml of methylene chloride were dissolved 20.8 g of 3-methyl-2-thenyl alcohol and 27.1 ml of triethylamine, and 12.9 ml of thionyl chloride was added thereto dropwise at -15° C. to -10° C. over a period of 30 minutes, after which the resulting solution was further subjected to reaction at the same temperature for 30 minutes. The reaction mixture was poured into ice water, and the organic layer was separated and then dried over anhydrous magnesium sulfate. Subsequently, the dried organic layer was added dropwise with ice-cooling to a solution of 95 g of dimethylamine in 550 ml of ethanol, and the resulting mixture was allowed to stand overnight at room temperature. The solvent was removed by distillation under reduced pressure, after which 100 ml of water was added to the residue, and the resulting mixture was adjusted to pH 10 with potassium carbonate, and then extracted with 200 ml of ethyl acetate. The extract was washed with 50 ml of a saturated aqueous sodium chloride solution and dried over anhydrous potassium carbonate, after which the solvent was removed by distillation under reduced pressure, and the oily substance thus obtained was distilled under reduced pressure to obtain 19.0 g (yield 75%) of 2-(dimethylamino)methyl-3-methylthiophene having a boiling point of 85°-86° C./14 mmHg.

reactant | 3-methyl-2-thenyl alcohol | 20.8 g | CC1=C(SC=C1)CO | C6H8OS
reactant | triethylamine | 27.1 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 12.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(dimethylamino)methyl-3-methylthiophene | 19.0 g, yield 75% | CN(C)CC=1SC=CC1C | C8H13NS
